US05811439
The same procedures used in Example 1 were repeated except for using 725 mg of indole-4-carbaldehyde and 2-fluorobenzyl bromide instead of the benzyl bromide used in Example 1 to give 1.22 g of 1-(2-fluorobenzyl)indole-4-carbaldehyde as yellow crystals. The yield thereof was found to be 96%.

reactant | indole-4-carbaldehyde | 725 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 2-fluorobenzyl bromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
product | 1-(2-fluorobenzyl)indole-4-carbaldehyde | 1.22 g | FC1=C(CN2C=CC=3C(=CC=CC23)C=O)C=CC=C1 | C16H12FNO
